US07230011B2
2,3,4-Trifluorobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
By a method similar to Example 31, using 2,3,4-trifluorobenzenesulfonyl chloride (280 mg, 1.2 mmol) and 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (231 mg, 1.0 mmol) and 0.2 N sodium hydroxide (5.5 mL, 1.1 mmol) gave 449 mg of a purple foam. The crude product was purified by radial chromatography (silica gel, 2000 micron rotor, 100/10 methylene chloride/methanol then 100/10/0.5 methylene chloride/methanol/ammonium hydroxide) to give 418 mg (98%) of homogeneous product. The product was crystallized from ethyl acetate/hexanes to give 280 mg of the title compound as a white powder: mp=160-162° C.; MS(m/e): 424 (M+); Calculated for C20H19F3N2O3S: C, 56.60; H, 4.51; N, 6.60. Found: C, 56.53; H, 4.78; N, 6.51.

reactant | 2,3,4-trifluorobenzenesulfonyl chloride | 1.2 mmol, 280 mg | FC1=C(C=CC(=C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
reactant | 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 1.0 mmol, 231 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C14H18N2O
reactant | sodium hydroxide | 1.1 mmol, 0.2 N, 5.5 mL | [OH-].[Na+]
product | 2,3,4-Trifluorobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 449 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=C(C(=C(C=C1)F)F)F | C20H19F3N2O3S
